US05646308
A mixture of 0.11 g of N-(2-cyanoethyl)-2,2-bis(fluoromethyl)-6-nitro-2H-1-benzopyran-4-carboxamide and 0.17 g of a Lawesson's reagent and 10 ml of benzene was refluxed with heating for 2 hours. The solvent was distilled and the obtained residue was purified according to silica gel column chromatography (developing solution, MeOH:CH2Cl2 =1:99) and further recrystallyzed by a mixed solvent of ethyl acetate and hexane to obtain 42 mg of N-(2-cyanoethyl)-2,2-bis(fluoromethyl)-6-nitro-2H-1-benzopyran-4-carbothioamide with a melting point of 114°-116° C.

reactant | N-(2-cyanoethyl)-2,2-bis(fluoromethyl)-6-nitro-2H-1-benzopyran-4-carboxamide | 0.11 g | C(#N)CCNC(=O)C1=CC(OC2=C1C=C(C=C2)[N+](=O)[O-])(CF)CF | C15H13F2N3O4
reactant | Lawesson's reagent | 0.17 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | N-(2-cyanoethyl)-2,2-bis(fluoromethyl)-6-nitro-2H-1-benzopyran-4-carbothioamide | 42 mg | C(#N)CCNC(=S)C1=CC(OC2=C1C=C(C=C2)[N+](=O)[O-])(CF)CF | C15H13F2N3O3S
